US09255094B2
To a solution of 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (500 mg, 2.3 mmol) in DMF (10 mL) was added sodium hydride (276 mg, 6.9 mmol). After stirring for 10 min at RT, 4-(2-methyl-oxiranyl)-pyridine (473 mg, 3.5 mmol) was added and stirring continued for another 16 h. The reaction mixture was poured into ice water and extracted with EtOAc. The organic layer was washed with water, dried over sodium sulfate and concentrated to afford crude material, which was re-crystallized in ether-hexane to yield 2-(pyridin-4-yl)-1-(2,3,8-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol. 1H NMR (DMSO, HCl salt) d (ppm): 8.62 (d, 2H), 8.10 (d, 2H), 7.18 (s, 1H), 6.90 (m, 1H), 6.80 (m, 1H), 4.62 (m, 2H), 4.40 (m, 3H), 4.05 (m, 1H), 3.80 (m, 1H), 3.05 (s, 3H), 2.38 (s, 3H), 1.75 (d, 3H), 1.70-1.50 (m, 3H).

reactant | 2,3,8-trimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.3 mmol, 500 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1C | C14H18N2
reactant | sodium hydride | 6.9 mmol, 276 mg | [H-].[Na+]
reactant | 4-(2-methyl-oxiranyl)-pyridine | 3.5 mmol, 473 mg | CC1(OC1)C1=CC=NC=C1 | C8H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(pyridin-4-yl)-1-(2,3,8-trimethyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)propan-2-ol | N1=CC=C(C=C1)C(CN1C2=C(C=3C=C(C=CC13)C)CN(C(C2)C)C)(C)O | C22H27N3O
